US04307094
1.69 g (0.011 mol) of 3,5-dioxo-1,2,4-triazolidine-4-acetic acid were suspended in 20 ml of dry dioxan and the suspension was stirred at room temperature under a stream of nitrogen. A solution of 1.32 g (0.012 mol) of tert.butyl hypochlorite in 4 ml of dry dioxan was added dropwise over a period of 15 minutes. Stirring was continued for 45 minutes, the resulting red solution was filtered and the filtrate was evaporated in vacuo to give a red solid. This red solid was dissolved in 30 ml of dioxan and added portionwise to a stirred solution of 1.25 g (0.013 mol) of penta-2,4-dienoic acid in 20 ml of dioxan. The red colour was allowed to fade between the additions. After completion of the addition and when no red colour persisted, the solution was stirred at room temperature for 1 hour and evaporated in vacuo to give a colourless solid. This solid was recrystallized from acetonitrile to give 1.17 g (43%) of 5-carboxy-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo-[1,2-a]pyridazine-2-acetic acid of melting point 209°-211° C. (decomposition).

reactant | 3,5-dioxo-1,2,4-triazolidine-4-acetic acid | 0.011 mol, 1.69 g | O=C1NNC(N1CC(=O)O)=O | C4H5N3O4
reactant | tert.butyl hypochlorite | 0.012 mol, 1.32 g | ClOC(C)(C)C | C4H9ClO
reactant | penta-2,4-dienoic acid | 0.013 mol, 1.25 g | C(C=CC=C)(=O)O | C5H6O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 4 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 5-carboxy-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo-[1,2-a]pyridazine-2-acetic acid | 1.17 g, 43% | C(=O)(O)C1N2N(CC=C1)C(N(C2=O)CC(=O)O)=O | C9H9N3O6
